US05948916
In N,N-dimethylformamide, 290 mg of 3-bromomethyl-4-(2-chlorophenyl)-1,2,5-thiadiazole, and 49 mg of sodium cyanide were stirred at 90° C. for 3 hours. After spontaneous cooling, the reaction mixture was poured into water, and was extracted with diethyl ether. The diethyl ether layer was washed with dilute sodium hydroxide solution and water, dried over anhydrous magnesium sulfate, and concentrated. The concentrate was purified by silica gel column chromatography to obtain 150 mg of 3-(2-chlorophenyl)-4-cyanomethyl-1,2,5-thiadiazole. The obtained 150 mg of 3-(2-chlorophenyl)-4-cyanomethyl-1,2,5-thiadiazole, 6 mL of 5% sodium hydroxide solution, and 2 mL of ethanol were mixed and refluxed by heating for one hour. After spontaneous cooling, the reaction mixture was poured into dilute hydrochloric acid, and was extracted with diethyl ether. The diethyl ether layer was washed with water, dried over anhydrous magnesium sulfate, and concentrated. The concentrate was purified by silica gel column chromatography to obtain 120 mg of [3-(2-chlorophenyl)-1,2,5-thiadiazole-4-yl]acetic acid.

reactant | 3-(2-chlorophenyl)-4-cyanomethyl-1,2,5-thiadiazole | 150 mg | ClC1=C(C=CC=C1)C1=NSN=C1CC#N | C10H6ClN3S
reactant | sodium hydroxide | 6 mL | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | ethanol | 2 mL | C(C)O | C2H6O
product | [3-(2-chlorophenyl)-1,2,5-thiadiazole-4-yl]acetic acid | 120 mg | ClC1=C(C=CC=C1)C1=NSN=C1CC(=O)O | C10H7ClN2O2S
